US06818663B2
B. 4-Bromo-1-ethyl-2-fluoro-benzene
4-Bromo-2-fluoro-1-vinyl-benzene (1.80 g, 8.96 mmol) was dissolved in ethyl acetate (50 mL) and palladium-on-carbon (10%, 70 mg) was added and the mixture was hydrogenated under 1 atmosphere overnight. The mixture was filtered and the filtrate was concentrated to give the crude, 1.80 g, which was used directly for the next step.

reactant | 4-Bromo-2-fluoro-1-vinyl-benzene | 8.96 mmol, 1.80 g | BrC1=CC(=C(C=C1)C=C)F | C8H6BrF
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 70 mg | [Pd] | Pd
product | 4-Bromo-1-ethyl-2-fluoro-benzene | BrC1=CC(=C(C=C1)CC)F | C8H8BrF
